US07169924B2
Intermediate A4—4-(4Fluorophenyl)-butyramide
To a solution of 4-(4-fluorophenyl)-butyric acid (6.7 g) in chloroform (15 ml) at 0° C. was added 0.1 ml DMF followed by the addition of oxalyl chloride (3.35 ml) over 20 min. The solution was stirred for 2 h then concentrated. The crude acid chloride was dissolved in chloroform (150 ml) and cooled to 0° C., whereupon concentrated ammonia solution (6 ml) was added over 15 min and the resulting solution stirred for 2 h. The reaction mixture was washed with water and the organic phase dried (MgSO4) and concentrated in vacuo. The crude product was chromatographed over silica using a gradient elution from ether to 2:1 acetone/ether to yield the title compound (2.86 g, 43%). 1H-NMR (CDCl3) δ 1.96 (2H, app q), 2.21 (2H, t), 2.65 (2H, t), 5.41 (2H, br s), 6.96 (2H, m), 7.14 (2H, m). MS(APCI+)M+1=182, C10H12FNO requires 181.

reactant | 4-(4-fluorophenyl)-butyric acid | 6.7 g | FC1=CC=C(C=C1)CCCC(=O)O | C10H11FO2
reactant | DMF | 0.1 ml | CN(C)C=O | C3H7NO
reactant | oxalyl chloride | 3.35 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | chloroform | 15 ml | C(Cl)(Cl)Cl | CHCl3
product | 4-(4Fluorophenyl)-butyramide | 2.86 g, 43% | FC1=CC=C(C=C1)CCCC(=O)N | C10H12FNO
